Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, leg swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ -year old morbidly obese, woman with DVT/PE, 
DM2, CVA with man admissions this year to the hospital who 
presents with weight gain, leg swelling, shortness
of breath and hypoxia.

Ms. ___ reports feeling short of breath for the last week to 
ten days. It has progressed steadily and became most noticeable 
this past weekend while singing at church. She was not able to 
keep up with the chorus like she normally can and had to sit 
down to catch her breath after a short time. On ___ 
she woke up and became short of breath while standing at the 
kitchen counter making coffee. After resting, she immediately 
became short of breath again after washing dishes. She has also 
noticed that even at rest when talking a lot she is unable to 
catch her breath. 

In the last 10 days she has also noticed increased swelling in 
her legs and even in her arms. She has had swelling before but 
never this severe. The swelling is bilateral but her lower
extremities are not painful. She previously took Lasix and is 
unsure why she stopped. During the last week she has had chest 
pain, which has progressed steadily. It is non-exertional and
non-positional. It feels "like someone is sitting on her chest." 
She has not tried anything for this pain and it is different 
from her indigestion and chest pain she has had in the past. Her
daughter who lives with her became concerned and encouraged her 
to call her doctor who after seeing her in clinic encouraged her 
to go to the ___ for further evaluation. 

The patient report that she has not been eating much 
recentlybecause she doesn't feel well. She had a ___ year stay at 
a rehab facility returning home in ___. From ___ 
until
___, she estimates that she lost over 60 lbs due to 
poor po intake at home. She hospitalized for chest pain at the 
end of ___ and was negative for cardiac work-up, thought 
to have costochondritis. 

In the CDAC yesterday her vitals were stable and she was 
diuresed with po toresemide due to poor IV access. She 
desaturated to 70% with ambulation in the ED but had normal 
saturations at rest. 

On the floor, she says her chest pain is persistent and 
shortness of breath and swelling are improved. She endorses 
feeling weak and fatigued, has felt nauseous and vomited once on 
___. She denies dysuria or increased urinary frequency but 
has not had abowel movement in 4 days. She denies fever, chills, 
night sweats. She denies, palpitations, racing heart, 
lightheadedness or dizziness, new numbness or tingling, focal 
weakness or vision
changes.  

REVIEW OF SYSTEMS: A 10-point review of systems was performed 
and all of the other
review of systems were negative.  
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- h/o HTN and DMII, resolved after gastric bypass per patient
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- s/p cholecystectomy and gastric bypass (___), with f/u 
complicated by multiple ex lap, gastrectomy, reversal surgery, 
failed J-tube c/b colonic perforation  
- multiple SBO during f/u from above  
- hernia repair  
- abdominal pain  
- asthma  
- peptic ulcer disease  
- osteoarthritis  
- narcotic abuse  
- depression  
- anxiety  
- tobacco abuse  
- muscle weakness / myelopathy  
- cardiac evaluation  
- gastroesophageal reflux  
- lower back pain  
- lower extremity edema  
- DVT c/b PE  
- vulvar folliculitis  
- arthorplasty - right total knee  
- stroke - left sided  
- hepatitis C - positive ab test, negative HCV viral load in 2x 
tests  
- nephrolithiasis  
- thyromegaly - TSH wnl, low free T4  
 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF
 
Physical Exam:
=====================
ADMISSION EXAM
=====================
VITALS:  98.1PO 132/80 99 18 100 RA 
GENERAL: Obese female resting in bed eating. NAD. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma. Moist 
mucosal membranes.
NECK: Supple without appreciable LAD or JVD 
CARDIAC: Tachycardic, RR, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
LUNGS: Clear to auscultation bilaterally. Resp were unlabored, 
no accessory muscle use. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. multiple scars from 
surgery. Extra skin from weight loss.   
EXTREMITIES: 2+ edema in the lower extremities. 1+ edema up to 
the hip.   
SKIN: Echymoses on the medial aspect of the foot. Venous stasis 
changes of shins bilaterally. No ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 

=====================
DISCHARGE EXAM
=====================
 
Pertinent Results:
======================
ADMISSION LABS
======================
___ 09:00PM BLOOD WBC-6.4# RBC-3.09* Hgb-10.0* Hct-31.0* 
MCV-100* MCH-32.4* MCHC-32.3 RDW-17.0* RDWSD-60.8* Plt ___
___ 09:00PM BLOOD Glucose-94 UreaN-18 Creat-1.0 Na-138 
K-4.4 Cl-103 HCO3-22 AnGap-13
___ 09:00PM BLOOD ALT-50* AST-24 AlkPhos-99 TotBili-0.4
___ 09:00PM BLOOD ALT-50* AST-24 AlkPhos-99 TotBili-0.4
___ 09:00PM BLOOD Albumin-1.7* Calcium-7.3* Phos-3.5 
Mg-1.5*

======================
PERTINENT RESULTS
======================
LABS
======================
___ 09:00PM BLOOD proBNP-193
___ 09:00PM BLOOD ___ 07:15AM BLOOD 25VitD-21*

======================
IMAGING/STUDIES
======================
RUQUS (___): 
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study.
2. Stable mildly dilated common hepatic duct measuring up to 0.9 
cm, of undetermined significance.
3. No ascites.
===
Bilateral lower extremity ultrasound (___):
No evidence of deep venous thrombosis in the right or left lower 
extremity veins.
===
CXR (___): No radiographic evidence of acute cardiopulmonary 
disease.
===
TTE (___):
The left atrium is elongated. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
The estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Doppler parameters are most consistent 
with normal left ventricular diastolic function. Right 
ventricular chamber size and free wall motion are normal. There 
is abnormal septal motion/position. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. No mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
estimatedf pulmonary artery pressures are lower. Doppler and 
color Doppler data is consistent with normal diastolic function 
and normal PCWP. 
===
Abdominal xray (___):
FINDINGS: 
There is a nonspecific bowel gas pattern.  Copious amount of 
stool is seen within the ascending and transverse colon.  
Sutures are seen in the left mid abdomen.  Phleboliths are noted 
within the pelvis.  Degenerative changes and mild scoliosis are 
seen in the lumbar spine.  There are mild degenerative changes 
of the hips.
 
IMPRESSION: 
Nonspecific bowel gas pattern.  Copious amount of stool is seen 
within the ascending and transverse colon.

======================
DISCHARGE LABS
======================

___ 05:26AM BLOOD WBC-4.8 RBC-2.23* Hgb-7.3* Hct-23.7* 
MCV-106* MCH-32.7* MCHC-30.8* RDW-17.1* RDWSD-65.1* Plt ___
___ 04:41AM BLOOD WBC-3.7* RBC-2.22* Hgb-7.3* Hct-23.5* 
MCV-106* MCH-32.9* MCHC-31.1* RDW-17.0* RDWSD-64.6* Plt ___
___ 04:41AM BLOOD ___ PTT-28.4 ___
___ 04:41AM BLOOD Glucose-68* UreaN-12 Creat-0.6 Na-142 
K-4.1 Cl-106 HCO3-30 AnGap-6*
___ 05:26AM BLOOD ALT-36 AST-27 AlkPhos-95 TotBili-0.4
___ 04:29AM BLOOD CK-MB-4 cTropnT-<0.01
___ 04:41AM BLOOD Calcium-7.0* Phos-3.2 Mg-1.7
___ 09:00PM BLOOD NIACIN-Test      
___ 09:00PM BLOOD VITAMIN B1-WHOLE BLOOD-Test      
 
Brief Hospital Course:
___ y/o woman with morbid obesity s/p RYGB (___ II anatomy 
now), CVA, DVT/PE (xarelto), and chronic pain (methadone) 
presenting with shortness of breath and lower extremity edema, 
initially presented to the CDAC. TTE with normal systolic 
function, valvular function, and pulmonary pressures, CXR clear, 
BNP normal. Patient noted to have severe protein-calorie 
malnutrition, likely etiology of her lower extremity edema.  She 
was initially admitted to the cardiology service where she was 
given diuresis, which lead to orthostasis, so Midodrine was 
added.  They initiated tube feeds via NGT and then transferred 
her to the hospitalist service on the ___. 

=================
ACTIVE ISSUES
=================
# Severe protein-calorie malnutrition c/b peripheral edema: 
Patient noted to have severe malnutrition in setting of prior 
gastric bypass. GI recommended that the patient take small, 
frequent meals. The cardiology team, along with Nutrition 
decided to place an NGT tube, and the patient was initiated on 
tube feeds. In discussion with this team, there was no planned 
end-point in this therapy.  I discussed with her primary 
outpatient GI MD. ___ stated that her weight fluxuates, and that 
the TFs are unnecessary.  In addition, she experienced nausea, 
bloating, and some abdominal pain with these.  The NG tube was 
removed, and her symptoms improved.  She was able to eat 
sufficient meals and was pleased with her progress.  She will 
follow-up with Gastroenterology as well as nutrition as an 
outpatient. All of her home medications were kept the same as 
they were on admission.  

___ edema - the patient had SaO2 of ___ in clinic; however, when 
she was admitted to the floor, ambulatory SaO2 was 94-95% on RA 
per the report of the medical resident.  The Cardiology team 
treated her empirically for diastolic heart failure with 
Torsemide, which caused diuresis but also orthostasis.  
Torsemide was stopped, and we instituted TEDS as well as 
lymphedema wraps.  Wee discussed that mechanical (wraps), and 
not medical therapy would be best ___ for symptoms of this 
nature.  I also explained that dizziness or orthostasis should 
be dealt with by having slower movements with position changes.  
Midodrine was added but caused nausea symptoms, so this was not 
advised to continue and also to reduce polypharmacy.  

# AVNRT: Patient had single episode of AVNRT that 
self-terminated and has not recurred. Question whether her 
presenting symptom of shortness of breath was perhaps an 
arrhythmia, but no further events occurred on telemetry, and she 
experienced this symptom without any arrhythmia on the monitor.  
There is no need for further monitoring at this time.  

# DVT/PE: Patient previously on warfarin but switched to 
rivaroxaban, possibly at a prior rehab stay this year. Patient 
did have a stroke while on rivaroxaban. Given her gastric bypass 
and limited ability to eat a 500-calorie meal, rivaroxaban may 
be poorly absorbed and therefore less effective; however, her 
home compliance with meds is also in question which may have led 
to failure. She was able to take enough food to have AC to be 
effective.  There is no need to consider switching back to 
warfarin for anticoagulation at this time.  

#Stage II sacral ulcer - she should have off-loading for sitting 
and lying; ___ will continue dressing changes.   

=================
CHRONIC ISSUES
=================
# Chronic Pain
# Substance Abuse: Patient has ___ of chronic abdominal pain 
secondary to multiple
surgeries as well as ___ substance abuse. She is on a complex 
pain regimen, which has been continued while inpatient.  Because 
she missed her outpatient appointment for refill of Methadone, I 
gave her her 9 pills to last ___, and ___ - 
___.  She states that she has enough at home for ___ and 
___ and can get additional refills with her PCP in the next 
few days to resume on ___.  She was pleased with this plan.  


# Depression/Anxiety: Continued home bupropion, duloxetine, 
doxepin, queitiapine

# GERD: Continued home ranitidine, PPI, and sucralfate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Doxepin HCl 100 mg PO HS 
3. DULoxetine 40 mg oral Daily 
4. FoLIC Acid 1 mg PO DAILY 
5. Gabapentin 200 mg PO TID 
6. Lactulose 15 mL PO BID:PRN constipation 
7. Methadone 20 mg PO TID 
8. Pantoprazole 40 mg PO Q12H 
9. Promethazine 6.25 mg PO BID:PRN nausea 
10. QUEtiapine Fumarate 75 mg PO QHS 
11. Ranitidine 150 mg PO DAILY 
12. Rivaroxaban 20 mg PO DAILY 
13. Sucralfate 1 gm PO QID:PRN GI upset 
14. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
15. Ascorbic Acid ___ mg PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Cyanocobalamin 100 mcg PO DAILY 
18. Docusate Sodium 100 mg PO BID:PRN constipation 
19. Ferrous Sulfate 325 mg PO DAILY 
20. Multivitamins 1 TAB PO DAILY 
21. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
22. Senna 8.6 mg PO BID:PRN constipation 
23. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes  
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  BuPROPion (Sustained Release) 150 mg PO BID  
5.  Cyanocobalamin 100 mcg PO DAILY  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  Doxepin HCl 100 mg PO HS  
8.  DULoxetine 40 mg oral DAILY  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Gabapentin 200 mg PO TID  
12.  Lactulose 15 mL PO BID:PRN constipation  
13.  Methadone 20 mg PO TID 
RX *methadone 10 mg 2 tab by mouth three times a day Disp #*18 
Tablet Refills:*0 
14.  Multivitamins 1 TAB PO DAILY  
15.  Pantoprazole 40 mg PO Q12H  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17.  Promethazine 6.25 mg PO BID:PRN nausea  
18.  QUEtiapine Fumarate 75 mg PO QHS  
19.  Ranitidine 150 mg PO DAILY  
20.  Rivaroxaban 20 mg PO DAILY  
21.  Senna 8.6 mg PO BID:PRN constipation  
22.  Sucralfate 1 gm PO QID:PRN GI upset  
23.  Thiamine 100 mg PO DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
- Protein-calorie malnutrition
- Peripheral edema

SECONDARY:
- Atrioventricular nodal reentry tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  You were initially admitted to the 
hospital out of concern for fluid overload and heart failure. 
You were seen by the cardiologists, but your echocardiogram did 
not show any significant heart failure.  The diuretics (fluid 
pills) made you dizzy, so this was stopped, and wraps to your 
legs were determined to be the best treatment for the fluid 
accumulation.  In addition, because of weight loss, NG tube with 
tube feedings were tried, but this caused pain and nausea.  You 
were able to eat on your own without this, and your GI team 
thought that having small, frequent meals would be the best 
strategy.  

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___